### PR TITLE
SixNineThree

### PR DESCRIPTION
**Pull request by aminsaied**
Sets up mathlib dependencies and adds a new example to the AvocadoRouletteScratchpad.

## Dependencies

- `lakefile.toml` - dependencies on mathlib, project metadata
- `lean-toolchain` - specified lean version
- `lake-manifest.json` - pins versions of dependencies

## AvocadoRouletteScratchpad

Adds `SixNineThree` example - a proof of a toy theorem of a random observation (actually due to my son 😛) about preserving divisibility by 7 under a certain operation of adding 9s.

```lean
def insert_9 (n: ℕ): ℕ :=
  let units := n % 10
  let tens_and_above := n / 10
  tens_and_above * 100 + 90 + units

theorem insert_9_preserves_7_times_table (n : ℕ)
  (h1 : 7 ∣ n)              -- n is in the 7 times table
  (h2 : ends_in_3 n) :      -- n ends in 3
  7 ∣ insert_9 n 
```

### CODE REVIEW

File: AvocadoRouletteScratchpad/examples/sixninethree.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+
+  have h_insert_9 : insert_9 n = ten_n_plus_63 := by
+    unfold insert_9
+    simp
+    rw [h2]
+    unfold ten_n_plus_63
+    unfold ten_n
+    simp
+
+    have div_mod : n = n / 10 + 3 := by
```
Comment (aminsaied) [inline AvocadoRouletteScratchpad/examples/sixninethree.lean]: Need to remove these `sorry`s before opening the PR. How hard is it to prove:

```
10 * (n / 10) + n % 10 = (10 * (n / 10) + n % 10) / 10 + 3
```
